US05716847
3-[N-morpholino] propane sulfonic acid;
N,N-bis [2-Hydroxyethyl]-2-aminoethanesulfonic acid; (1,3-bis[tris(Hydroxymethyl)methylamino]propane); (N,N-bis[2-Hydroxyethyl]-2-aminoethanesulfonic acid; 2-[bis(2-Hydroxyethyl)amino]ethanesulfonic acid); (N-tris[Hydroxymethyl]methyl-2-aminoethane-sulfonic acid; 2-([2-Hydroxy-1,1-bis(hydroxymethyl)ethyl]amino) ethanesulfonic acid; 3-[N,N-bis(2-Hydroxyethyl)methylamino]-2-hydroxypropanesulfonic acid); (3-[N-tris(Hydroxymethyl)methylamino]-2-hydroxypropanesulfonic acid); (tris[Hydroxymethyl]aminomethane), (2-amino-2-(hydroxymethyl)-1,3-propanediol); (N-[2-Hydroxyethyl]piperazine-N'-[2-hydroxypropanesulfonic acid]); (Piperazine-N,N'-bis[2-hydroxypropanesulfonic acid]); (N[2-Hydroxyethyl]piperazine-N'-[3-propane-sulfonic acid]); Triethanolamine, (2,2'2"-Nitrilotriethanol); and mixtures thereof.

reactant | N,N-bis [2-Hydroxyethyl]-2-aminoethanesulfonic acid | OCCN(CCS(=O)(=O)O)CCO | C6H15NO5S
reactant | BIS-TRIS PROPANE | C(CNC(CO)(CO)CO)CNC(CO)(CO)CO | C11H26N2O6
reactant | 2-([2-Hydroxy-1,1-bis(hydroxymethyl)ethyl]amino) ethanesulfonic acid | OCC(CO)(CO)NCCS(=O)(=O)O | C6H15NO6S
reactant | TAPSO | C(C(CS(=O)(=O)O)O)NC(CO)(CO)CO | C7H17NO7S
reactant | 2-amino-2-(hydroxymethyl)-1,3-propanediol | NC(CO)(CO)CO | C4H11NO3
reactant | Triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
product | 3-[N-morpholino] propane sulfonic acid | C1COCC[NH+]1CCCS(=O)(=O)[O-] | C7H15NO4S
